US04221909
3-Amino-2-nonanol hydrochloride (43.8 g, 0.226 mole) was dissolved in absolute methanol (150 ml) and cooled to -10° in an ice-salt bath. 1. Potassium borohydride (24.4 g, 0.45 mole) 2. was added in small portions over a 2-3 hr. period. The mixture is then kept at -10° to -15° for 3 hr. 3,4. and slowly allowed to reach room temperature (22°), then stirred overnight (20 hr.) at room temperature. The mixture is then evaporated to dryness (syrup) in vacuo and partitioned between H2O (150 ml) and chloroform (150 ml). The H2O layer was further extracted (3×) with chloroform (100 ml ea.). The chloroform layer was dried with MgSO4 and evaporated in vacuo to give a slightly yellowish, oily product. This liquid was distilled in high vacuo at 95°-100° (0.15 mm Hg) to give pure erythro- 3-amino-2-nonanol, 26.4 g, 75% yield, m.p. 81°-86°.

reactant | 3-Amino-2-nonanol hydrochloride | 0.226 mole, 43.8 g | Cl.NC(C(C)O)CCCCCC
reactant | Potassium borohydride | 0.45 mole, 24.4 g | [BH4-].[K+]
solvent | methanol | 150 ml | CO | CH4O
product | 3-amino-2-nonanol | 75% yield | NC(C(C)O)CCCCCC | C9H21NO
